US08748415B2
Preparation of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate
A mixture of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (59 mg, 0.099 mmol), N1,N1-dimethylethane-1,2-diamine (0.13 ml, 1.2 mmol), sodium triacetoxyborohydride (104 mg, 0.493 mmol) and AcOH (0.023 ml, 0.394 mmol) in DCE (3 ml) was stirred at rt for 12 h. The solvent was removed in vacuo. LCMS showed desired product and some imine not reduced yet. The residue was redissolved in DCE (3 ml) and treated again with sodium triacetoxyborohydride (104 mg, 0.493 mmol) and AcOH (0.023 ml, 0.394 mmol) at rt for 48 h. Solvent removed in vacuo and the residue redissolved in methylene chloride and purified by silica gel column (0-10% MeOH/CH2Cl2) to afford the title compound as a white solid (65 mg, 98% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.90 (d, J=8.3 Hz, 2H), 7.19 (d, J=8.5 Hz, 2H), 5.30 (dd, J=6.1, 1.6 Hz, 1H), 4.72 (d, J=1.5 Hz, 1H), 4.63 (s, 1H), 3.17-2.95 (m, 3H), 2.72 (t, J=5.9 Hz, 2H), 2.54 (d, J=12.3 Hz, 1H), 2.48-2.41 (m, 1H), 2.40 (s, 6H), 2.21-1.10 (m, 22H), 1.72 (s, 3H), 1.61 (s, 9H), 1.12 (s, 3H), 1.03 (s, 3H), 1.00 (s, 3H), 0.95 (s, 6H).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.099 mmol, 59 mg | C(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H58O3
reactant | N1,N1-dimethylethane-1,2-diamine | 1.2 mmol, 0.13 ml | CN(CCN)C | C4H12N2
reactant | sodium triacetoxyborohydride | 0.493 mmol, 104 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.394 mmol, 0.023 ml | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.493 mmol, 104 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.394 mmol, 0.023 ml | CC(=O)O | C2H4O2
solvent | DCE | 3 ml | ClCCCl | C2H4Cl2
product | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 65 mg, 98% yield | CN(CCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C)C | C45H70N2O2
